US06022906
1-[4'-(3-Mercapto-propylthio)-biphenyl-4-yl]-2-methyl-2-morpholin-4-yl-propan-1-one
3.5 g (9.0 mmol) of 1-(4'-Bromo-biphenyl-4-yl)-2-methyl-2-morpholin-4-yl-propan-1-one (prepared by the method described in EP-A-3002) and 5.4 ml (54 mmol) of 1,3-propanedithiol are dissolved in 50 ml of dimethylacetamide, and the solution is stirred at around 140° C. together with 2.5 g of potassium carbonate for 2.5 h. Then the solution is cooled to room temperature and poured into water. The crude product is extracted with methylene chloride, washed with saturated sodium chloride solution, dried over MgSO4, and concentrated. The residue is purified by column chromatography on silica gel with ethyl acetate-hexane (10:90) as an eluent. The structure is confirmed by the 1H-NMR spectrum (CDCl3): δ [ppm] 1.35 (s, 6H), 1.38 (t, 1H), 1.98 (tt, 2H), 2.61 (t, 4H), 2.69 (dt, 2H), 3.11 (t, 2H), 3.72 (t, 4H), 7.42 (d, 2H), 7.51 (d, 2H), 7.62 (d, 2H), 8.63 (d, 2H).

reactant | 1-(4'-Bromo-biphenyl-4-yl)-2-methyl-2-morpholin-4-yl-propan-1-one | 9.0 mmol, 3.5 g | BrC1=CC=C(C=C1)C1=CC=C(C=C1)C(C(C)(N1CCOCC1)C)=O | C20H22BrNO2
reactant | A-3002 | CC(C)(C1=CC=C(C=C1)OCC(COC(=O)C=C)O)C2=CC=C(C=C2)OCC(COC(=O)C=C)O | C27H32O8
reactant | 1,3-propanedithiol | 54 mmol, 5.4 ml | C(CCS)S | C3H8S2
reactant | potassium carbonate | 2.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylacetamide | 50 ml | CC(=O)N(C)C | C4H9NO
solvent | water | O | H2O
product | 1-[4'-(3-Mercapto-propylthio)-biphenyl-4-yl]-2-methyl-2-morpholin-4-yl-propan-1-one | SCCCSC1=CC=C(C=C1)C1=CC=C(C=C1)C(C(C)(N1CCOCC1)C)=O | C23H29NO2S2
